US05707987
A solution of p-bromoiodobenzene (9.44 g, 33.4 mmol) in tetrahydrofuran (10 ml) was added dropwise to a solution of 1.6M butyl lithium-hexane solution (19.0 ml, 30.3 mmol) in tetrahydrofuran (50 ml) at -78° C. in a nitrogen stream over 15 minutes. The resulting reaction solution was stirred at -78° C. for 40 minutes and then a solution of (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (5.0 g, 15.2 mmol) in tetrahydrofuran (17 ml) was added dropwise thereto over 10 minutes. The reaction solution was stirred at -78° C. for 1.5 hours. After addition of saturated aqueous ammonium chloride, the reaction solution was poured into a liquid mixture of ethyl acetate with water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting oily residue was subjected to silica gel Column chromatography (Wakogel™ C-300, 200 ml ethyl acetate-heptane 2:3→3:2) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[(4-bromophenyl)hydroxymethyl]pyrrolidine (6.30 g, yield: 85.3%) as a pale yellow oily substance.

reactant | p-bromoiodobenzene | 33.4 mmol, 9.44 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 15.2 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[(4-bromophenyl)hydroxymethyl]pyrrolidine | 6.30 g, yield: 85.3% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C1=CC=C(C=C1)Br | C22H36BrNO4Si
